US06525201B2
In the most preferred of these processes, p-anisidine is dissolved in a sufficient amount of toluene to produce an approximately 3 to 5 M solution, more preferably about 4 M solution. Between 1 and 2 equivalents, more preferably about 1.5 equivalents, of sodium bicarbonate (“NaHCO3”) are suspended in the p-anisidine solution and the resulting suspension is stirred while an approximately equivalent amount 3-chloropropionyl chloride (i.e. 1-1.2 eq.) is added dropwise to the stirred suspension. The addition may be conducted at reduced or ambient temperature and the temperature may be allowed to rise, but should not be allowed to exceed 70° C. After completing the addition, the temperature of the reaction is maintained at between room temperature and the reflux temperature of toluene (111° C.), most preferrably about 60° C., for a time sufficient for the reaction to be complete. Progress of the reaction may be monitored by TLC using the method described in Example 2a. After the reaction is complete, the reaction mixture is quenched with water or aqueous mineral acid and MCPA is isolated from the resulting suspension by filtration, decantation and the like, preferably filtration. The MCPA is then washed with water, toluene, or other nonviscous liquid in which the MCPA is not substantially soluble. The washed solid is then dried.

reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
reactant | 3-chloropropionyl chloride | 1-1.2 eq. | ClCCC(=O)Cl | C3H4Cl2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | MCPA | CC1=C(C=CC(=C1)Cl)OCC(=O)O | C9H9ClO3
